US04387230
5-Hydroxy-1-methyl-3-(4-methylphenyl)-1,2,5,6-tetrahydropyridine
A solution of 1,6-dihydro-5-(4-methylphenyl)-1-methyl-3[2H]pyridone hydrochloride (18 g) in 50% aqueous ethanol (500 ml) was treated with sodium bicarbonate (6.4 g) followed by sodium borohydride (4 g) in portions. After 2 hours, the solvent was removed under reduced pressure and the residue extracted with ether (2×250 ml). Drying (MgSO4) followed by removal of the solvent under vacuum gave an oil which crystallised and was recrystallised from pentane to give the title compound (9 g) m.p. 67°-69°.

reactant | 1,6-dihydro-5-(4-methylphenyl)-1-methyl-3[2H]pyridone hydrochloride | 18 g | Cl.CC1=CC=C(C=C1)C1=CC(CN(C1)C)=O
reactant | sodium bicarbonate | 6.4 g | C([O-])(O)=O.[Na+]
reactant | sodium borohydride | 4 g | [BH4-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-Hydroxy-1-methyl-3-(4-methylphenyl)-1,2,5,6-tetrahydropyridine | 9 g | OC1C=C(CN(C1)C)C1=CC=C(C=C1)C | C13H17NO
